US07468375B2
Step 6: 4-[(E)-2-ethoxyvinyl]-1-(4-fluorobenzyl)-N-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxamide.
To ethyl 4-[(E)-2-ethoxyvinyl]-1-(4-fluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate (0.2 g, 0.54 mmol) in methanol (5 mL) were added hydroxylamine (1 mL, 50% in water, 15.2 mmol) and sodium hydroxide (0.0763 g, 1.9 mmol). The mixture was stirred at room temperature for 5 h, neutralized with 4N aq. HCl solution (0.48 mL, 1.9 mmol), and extracted with ethyl acetate. The organic extract was concentrated and recrystallized from ethyl acetate/ethyl ether/hexane to give the title compound (0.12 g, 62% yield). 1H NMR (DMSO-d6) 6; 11.76 (d, 1H, J=1.9 Hz), 8.88 (d, 1H, J=1.9 Hz), 8.60 (s, 1H), 7.83 (d, 1H, J=3.0 Hz), 7.31 (t, 2H, J=8.9 Hz), 7.22 (d, 1H, J=13.2 Hz), 7.05 (t, 2H, J=8.9 Hz), 6.82 (d, 1H, J=3.0 Hz), 6.66 (d, 1H, J=13.2 Hz), 5.54 (s, 2H), 3.96 (q, 2H, J=7.0 Hz), 1.28 (t, 3H, J=7.0 Hz). LCMS (APCI, M+H+): 356.1. Anal. (C19H18FN3O3) C, H, N. HPLC: 95% purity.

reactant | ethyl 4-[(E)-2-ethoxyvinyl]-1-(4-fluorobenzyl)-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 0.54 mmol, 0.2 g | C(C)O/C=C/C1=C2C(=CN=C1C(=O)OCC)N(C=C2)CC2=CC=C(C=C2)F | C21H21FN2O3
reactant | hydroxylamine | 15.2 mmol, 1 mL | NO | H3NO
reactant | sodium hydroxide | 1.9 mmol, 0.0763 g | [OH-].[Na+]
reactant | HCl | 1.9 mmol, 4N, 0.48 mL | Cl | ClH
solvent | methanol | 5 mL | CO | CH4O
product | 4-[(E)-2-ethoxyvinyl]-1-(4-fluorobenzyl)-N-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxamide | 0.12 g, 62% yield | C(C)O/C=C/C1=C2C(=CN=C1C(=O)NO)N(C=C2)CC2=CC=C(C=C2)F | C19H18FN3O3
